US07307094B2
A 100-mL one-neck round-bottomed flask equipped with a magnetic stirrer was purged with nitrogen and charged with 2-phenylbenzoxazole-4-carboxylic acid (0.190 g, 0.79 mmol), DMF (0.588 g, 8.00 mmol) and anhydrous methylene chloride (15 mL). The resulting solution was treated with oxalyl chloride (1.46 g, 11.5 mmol) dropwise over 5 min and stirred at ambient temperature under nitrogen for 2 h. After this time, the reaction mixture was evaporated to a solid residue which was dissolved in anhydrous methylene chloride (15 mL). The resulting solution was treated with sodium bicarbonate (0.672 g, 8.00 mmol) and stirred at ambient temperature under nitrogen for 15 min. After this time, a solution of 3-(2-methylimidazol-1-yl)propylamine (0.332 g, 2.39 mmol) in anhydrous methylene chloride (5 mL) was added and the mixture stirred for a further 20 h. The reaction mixture was then diluted with methylene chloride (50 mL) and washed with 10% aqueous potassium carbonate (10 mL) followed by water (20 mL). The organic phase was dried over sodium sulfate, filtered and evaporated to a solid residue which was further purified by preparative HPLC to give 0.040 g (14% yield) of N-[3-(2-methylimidazol-1-yl)propyl]-2-phenylbenzoxazole-4-carboxamide as a white solid: mp 145-148° C.; 1H NMR (300 MHz, CD3OD) δ 8.33 (m, 2H), 8.03 (dd, J=7.8, 0.9 Hz, 1H), 7.86 (dd, J=8.2, 0.9 Hz, 1H), 7.69-7.59 (m, 4H), 7.52 (t, J=8.0 Hz, 1H), 7.38 (d, J=2.1 Hz, 1H), 4.32 (t, J=7.1 Hz, 2H), 3.67 (t, J=7.1 Hz, 2H), 2.65 (s, 3H), 2.31 (m, 2H); MS (ESI) m/z 361 [M+H]+.

reactant | 2-phenylbenzoxazole-4-carboxylic acid | 0.79 mmol, 0.190 g | C1(=CC=CC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C14H9NO3
reactant | DMF | 8.00 mmol, 0.588 g | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 11.5 mmol, 1.46 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium bicarbonate | 8.00 mmol, 0.672 g | C([O-])(O)=O.[Na+]
reactant | 3-(2-methylimidazol-1-yl)propylamine | 2.39 mmol, 0.332 g | CC=1N(C=CN1)CCCN | C7H13N3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(2-methylimidazol-1-yl)propyl]-2-phenylbenzoxazole-4-carboxamide | 0.040 g, 14% yield | CC=1N(C=CN1)CCCNC(=O)C=1C=CC=C2C1N=C(O2)C2=CC=CC=C2 | C21H20N4O2
